US08802679B2
Under an argon atmosphere, 1,4-diiodiobenzene (2 g), azepane (1.2 g), and 2-(dimethylamino)ethanol (5.3 g) were mixed, and tripotassium phosphate (2.8 g) and copper (77 mg) were added thereto, followed by stirring at 60° C. for 2 days. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc) to obtain 1-(4-iodophenyl)azepane (300 mg).

reactant | 1,4-diiodiobenzene | 2 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | azepane | 1.2 g | N1CCCCCC1 | C6H13N
reactant | 2-(dimethylamino)ethanol | 5.3 g | CN(CCO)C | C4H11NO
reactant | tripotassium phosphate | 2.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | copper | 77 mg | [Cu] | Cu
product | 1-(4-iodophenyl)azepane | 300 mg | IC1=CC=C(C=C1)N1CCCCCC1 | C12H16IN
